* TLC552
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: TLC552
* Date: 13JUN2011
* Model Type: ALL IN ONE
* Simulator: TINA
* Simulator Version: 9.1.30.94 SF-TI
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SLFS044B – FEBRUARY 1984 – REVISED SEPTEMBER 1997
*
* Model Version: 1.0
*
*****************************************************************************
* 
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* THIS MODEL IS APPLICABLE FOR TLC551 & TLC552
*****************************************************************************
.SUBCKT TLC552 THRES CONT TRIG RESET OUT DISC VCC GND
X1  THRES CONT TRIG RESET OUT DISC VCC GND TLC55X
.ENDS

.SUBCKT TLC55X THRES CONT TRIG RESET OUT DISC VCC GND
RP VCC GND 120K
DP GND VCC DPZ_18V
.PARAM ISP = 20u
.PARAM NP = {0.3/(VT*LOG(1 + 5.0M/ISP))}
.MODEL DPZ_18V D( IS={ISP} N={NP} BV=18.0 IBV=5.0M EG={5.0*NP*VT} XTI={NP*3})
XD8          GND RESI   D_Z18V
XD7          GND RESET   D_Z18V
XR2          RESET RESI   TLC55X_RWELL
+ PARAMS: W=50U L=20U 
XD2          GND TRGI   D_Z18V
XD1          GND TRIG   D_Z18V
XR3          TRIG TRGI   TLC55X_RWELL
+ PARAMS: W=50U L=20U 
XD4          GND THRI   D_Z18V
XD3          GND THRES   D_Z18V
XR2_2        THRES THRI   TLC55X_RWELL
+ PARAMS: W=50U L=20U 
XD6          GND CONTI   D_Z18V
XD5          GND CONT   D_Z18V
XR2_3        CONT CONTI   TLC55X_RWELL
+ PARAMS: W=50U L=20U 
XMN15        GOUT GND QFF GND   MDSWN
+ PARAMS: W=100U L=10U M=7
XMP15        GOUT VCC QFF GND   MDSWP
+ PARAMS: W=195U L=10U M=9
XMN3         GND TRGO 23   IIMIRRN
+ PARAMS: W1=170U L1=18U M1=1 W2=170U L2=18U M2=1 IDIN=1U 
XMN5         GND THRS 25   IIMIRRN
+ PARAMS: W1=13U L1=26U M1=1 W2=52U L2=13U M2=4 IDIN=100N 
XMP9         VCC RESO 15 GND   IMIRRP
+ PARAMS: W=112U L=15U M=2 IO=2U 
XMP6         VCC 25 15 GND   IMIRRP
+ PARAMS: W=18U L=26U M=1 IO=100N 
XMP5         VCC TRGS 15 GND   IMIRRP
+ PARAMS: W=112U L=15U M=2 IO=2U 
XMP1         VCC THRO 29   IIMIRRP
+ PARAMS: W1=172U L1=15U M1=1 W2=172U L2=15U M2=1 IDIN=1U 
XIB          VCC GND 15   IBIAS
XRSFF        TRGO THRO RESO 30 QFF VCC GND   RR1SFF
+ PARAMS: VOUTH=1 VOUTL=0 RIN=1E12 DELAY=30N ROUT=10
XMN9         TRGO RESO GND   MSWN
+ PARAMS: W=100U L=10U M=1 
XMN17        DISC GOUT GND GND   TLC55X_NMOS_HV
+ PARAMS: W=350U L=10U M=20 
XMN16        OUT GOUT GND GND   TLC55X_NMOS_HV
+ PARAMS: W=175U L=10U M=20 
XMP16        OUT GOUT VCC VCC   TLC55X_PMOS_HV
+ PARAMS: W=270U L=10U M=7 
XMN10        RESO RESI GND GND   TLC55X_NMOS_HV_L1
+ PARAMS: W=100U L=10U M=1 
XMN2         THRO THRI THRS GND   TLC55X_NMOS_MV
+ PARAMS: W=170U L=18U M=2 
XMP4         TRGO TRGI TRGS VCC   TLC55X_PMOS_MV
+ PARAMS: W=172U L=15U M=2 
XMP3         23 TRGC TRGS VCC   TLC55X_PMOS_MV
+ PARAMS: W=172U L=15U M=2 
XMPR1F       GND GND 32 TRGC   TLC55X_PMOS_LV
+ PARAMS: W=20U L=15U M=1
XMPR1E       32 32 TRGC TRGC   TLC55X_PMOS_LV
+ PARAMS: W=20U L=15U M=1
XMPR1D       TRGC TRGC 33 CONTI   TLC55X_PMOS_LV
+ PARAMS: W=20U L=15U M=1
XMPR1C       33 33 CONTI CONTI   TLC55X_PMOS_LV
+ PARAMS: W=20U L=15U M=1
XMPR1B       CONTI CONTI 34 VCC   TLC55X_PMOS_LV
+ PARAMS: W=20U L=15U M=1 
XMPR1A       34 34 VCC VCC   TLC55X_PMOS_LV
+ PARAMS: W=20U L=15U M=1 
XMN1         29 CONTI THRS GND   TLC55X_NMOS_MV
+ PARAMS: W=170U L=18U M=2 
.ENDS

.SUBCKT TLC55X_NMOS_HV  D G S B PARAMS: W = 100U L = 10U M = 1
M1 D G S B TLC55X_NMOSD_HV W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS
*$
.SUBCKT TLC55X_NMOS_HV_L1  D G S B PARAMS: W = 100U L = 10U M = 1
M1 D G S B TLC55X_NMOSD_HV_L1 W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS
*$
.SUBCKT TLC55X_NMOS_MV  D G S B PARAMS: W = 100U L = 10U M = 1
M1 D G S B TLC55X_NMOSD_MV W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS
*$
.SUBCKT TLC55X_NMOS_LV  D G S B PARAMS: W = 100U L = 10U M = 1
M1 D G S B TLC55X_NMOSD_LV W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS
*$
.MODEL TLC55X_NMOSD_HV NMOS LEVEL=3 L=10U W=100U KP={KPN} VTO={VTOHN} THETA=1.8E-01
+ CJ={CJN} CJSW={CJSWN} CGSO={CGSON} CGDO={CGDON} RSH= 10 PB=0.65 LD= 70N RDS=50G TOX={TOX} XJ={XJN}
+ GAMMA={GAMMA}
*$
.MODEL TLC55X_NMOSD_HV_L1 NMOS LEVEL=1 L=10U W=100U KP={KPN} VTO={VTOHN} LAMBDA=2E-3 
+ CJ={CJN} CJSW={CJSWN} CGSO={CGSON} CGDO={CGDON} RSH= 10 PB=0.65 LD= 70N RDS=50G TOX={TOX}
+ GAMMA={GAMMA}
*$
.MODEL TLC55X_NMOSD_MV NMOS LEVEL=1 L=10U W=100U KP={KCG*KPN} VTO={VTOMN} LAMBDA=2E-3 
+ CJ={CJNCG} CJSW={CJSWNCG} CGSO={CGSONCG} CGDO={CGDONCG} CGBO={CGBONCG} RSH=10 PB=0.65 LD= 70N RDS=50G TOX={TOXCG}
+ GAMMA={GAMMA}
*$
.MODEL TLC55X_NMOSD_LV NMOS LEVEL=1 L=10U W=100U KP={KPN} VTO={VTON} LAMBDA=2E-3 
+ CJ={CJN} CJSW={CJSWN} CGSO={CGSON} CGDO={CGDON} RSH=10 PB=0.65 LD= 300N RDS=50G TOX={TOX}
+ GAMMA={GAMMA}
*$
.SUBCKT TLC55X_PMOS_HV  D G S B PARAMS: W = 100U L = 10U M = 1
M1 D G S B TLC55X_PMOSD_HV W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS
*$
.SUBCKT TLC55X_PMOS_MV  D G S B PARAMS: W = 100U L = 10U M = 1
M1 D G S B TLC55X_PMOSD_MV W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS
*$
.SUBCKT TLC55X_PMOS_LV  D G S B PARAMS: W = 100U L = 10U M = 1
M1 D G S B TLC55X_PMOSD_LV W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS
*$
.MODEL TLC55X_PMOSD_HV PMOS LEVEL=3 L=10U W=100U KP={KPP} VTO={-VTOHP} THETA=2.2E-01
+ CJ={CJP} CJSW={CJSWP} CGSO={CGSOP} CGDO={CGDOP} RSH=10 PB=0.65 LD=70N RDS=50G TOX={TOX} XJ={XJP}
+ GAMMA={GAMMA}
*$
.MODEL TLC55X_PMOSD_MV PMOS LEVEL=1 L=10U W=100U KP={KCG*KPP} VTO={-VTOMP} LAMBDA=2E-3 
+ CJ={CJNCG} CJSW={CJSWNCG} CGSO={CGSONCG} CGDO={CGDONCG} CGBO={CGBONCG} RSH=10 PB=0.65 LD= 70N RDS=50G TOX={TOXCG}
+ GAMMA={GAMMA}
*$
.MODEL TLC55X_PMOSD_LV PMOS LEVEL=1 L=10U W=100U KP={KPP} VTO={-VTOP} LAMBDA=2E-3 
+ CJ={CJP} CJSW={CJSWP} CGSO={CGSOP} CGDO={CGDOP} RSH=10 PB=0.65 LD=300N RDS=50G TOX={TOX}
+ GAMMA={GAMMA}
*$
.SUBCKT TLC55X_RWELL  1 2 PARAMS: W = 10U L = 100U
XR1 1 2 TLC55X_RWELLD PARAMS: W = {W} L = {L} 
.ENDS
*$
.SUBCKT TLC55X_RWELLD  1 2 PARAMS: W = 10U L = 100U
R1 1 2 {RSW*L/W}
.ENDS
*$
.SUBCKT TLC55X_RNSD  1 2 PARAMS: W = 10U L = 100U
XR1 1 2 TLC55X_RNSD_D PARAMS: W = {W} L = {L} 
.ENDS
*$
.SUBCKT TLC55X_RNSD_D  1 2 PARAMS: W = 10U L = 100U
R1 1 2 {RSN*L/W}
.ENDS
*$
.SUBCKT TLC55X_RC  1 2 PARAMS: WW = 10U LW = 100U WNSD = 10U LNSD = 100U
XR1 1 2 TLC55X_RC_D PARAMS: WW = {WW} LW = {LW}  WNSD = {WNSD}  LNSD = {LNSD} 
.ENDS
*$
.SUBCKT TLC55X_RC_D  1 2 PARAMS:  WW = 10U LW = 100U WNSD = 10U LNSD = 100U
R1 1 2 {RSW*LW/WW + RSN*LNSD/WNSD}
.ENDS
*
.SUBCKT IBIAS VCC GND VIB
*
.PARAM M1 = 8
.PARAM M2 = 5
.PARAM MP = 1
.PARAM WP = 13U
.PARAM WN = 130U
.PARAM LPE = {36U - LDP}
.PARAM LNE = {13U - LDN}
.PARAM BP = {MP*(WP/LPE)*(KPP/2)}
.PARAM WW = 13U
*.PARAM LW = 213U
.PARAM LW = 113U
.PARAM WNN = 25U
.PARAM LNN = 87U
.PARAM R1 = {(RSW*LW/WW + RSN*LNN/WNN)}
.PARAM K2 = {M2*(WN/LNE)*(KPN/2)}
.PARAM MR = {M2/M1}
*
R1 VIB GND {VBMUL}
GB  VCC VIB  VALUE = {LIMIT( IF ( V(VCC,GND) > VTOHP, BP*PWR(V(VCC,GND)-VTOHP, 2), 0), 
+ (1 + 1*LAMBDA*(V(VCC,GND) - VTOHN))*PWR(( 1 - SQRT(MR/(1+2*LAMBDA*(V(VCC,GND) - VTOHP))) )/R1, 2)/K2, 0)}
R2 VIB VCC {RPAR}
.ENDS

.SUBCKT IMIRRP VCC IO VIB GND PARAMS: W = 100U L = 10U M = 1 IO = 1U
*
.PARAM MP = 1
.PARAM WP = 13U
.PARAM LPE = {36U - LDP}
.PARAM LE = {L - LDP}
.PARAM MR = { M*W/LE/(MP*WP/LPE)/VBMUL }
.PARAM B1 = { (KPP/2*MP*WP/LPE)*VBMUL }
.PARAM IS = 1E-12
.PARAM N = {VTOHP/(VT*LOG(1 + IO/IS))}
*
GB VCC IO VIB GND {MR}
R1 VCC IO {RPAR}
C1 VCC IO {M*(CBDJ*CJP*LS*W + CBDS*CJSWP*(2*LS + W))}
V1 VCC 10 {VTOHP}
D1 IO  10  DMOD1
.MODEL DMOD1 D (IS={IS} N={N} EG={1*NZ*VT} XTI={NZ*0})
.ENDS

.SUBCKT IIMIRRP VCC IO II PARAMS: W1 = 100U L1 = 10U M1 = 1 W2 = 100U L2= 10U M2 = 2 IDIN = 1U
*
.PARAM L1E = {L1 - LDP}
.PARAM L2E = {L2 - LDP}
.PARAM B1 = {M1*(W1/L1)*(KPP/2)}
.PARAM MR = {M2*W2/L2E/(M1*W1/L1E)}
.PARAM RDS = {1/(2*SQRT(M2*(W2/L2E)*(KPP/2)*IDIN))}
.PARAM IS = 1E-12
.PARAM NP = {VTOP/(VT*LOG(1 + IDIN/IS))}
*
FB VCC IO V1 {MR}
R1 VCC IO {RPAR}
C1 VCC IO {M2*(CBDJ*CJP*LS*W2 + CBDS*CJSWP*(2*LS + W2))}
D1 IO  10  DMODP
V1 VCC 10 {VTOP}
R2 II 10  {RDS}
C2 VCC II {M1*(CBDJ*CJP*LS*W1 + CBDS*CJSWP*(2*LS + W1)) + 2/3*COX*(M1*W1*L1E + M2*W2*L2E) + CGSOP*(M1*W1 + M2*W2)}
*C3 II IO {CGDOP*W2}
.MODEL DMODP D (IS={IS} N={NP} EG={1*NZ*VT} XTI={NZ*0})
.ENDS

.SUBCKT IIMIRRN GND IO II PARAMS: W1 = 100U L1 = 10U M1 = 1 W2 = 100U L2= 10U M2 = 2 IDIN = 1U
*
.PARAM L1E = {L1 - LDN}
.PARAM L2E = {L2 - LDN}
.PARAM B1 = {M1*(W1/L1)*(KPN/2)}
.PARAM MR = { M2*W2/L2E/(M1*W1/L1E) }
.PARAM RDS = {1/(2*SQRT(M2*(W2/L2E)*(KPN/2)*IDIN))}
.PARAM IS = 1E-12
.PARAM NN = {VTON/(VT*LOG(1 + IDIN/IS))}
*
FB IO GND V1 {MR}
R1 IO GND {RPAR}
C1 IO GND {M2*(CBDJ*CJN*LS*W2 + CBDS*CJSWN*(2*LS + W2))}
D1 10 IO  DMODN
V1 10 GND {VTON}
R2 II 10  {RDS}
C2 II GND {M1*(CBDJ*CJN*LS*W1 + CBDS*CJSWN*(2*LS + W1)) + 2/3*COX*(M1*W1*L1E + M2*W2*L2E) + CGSON*(M1*W1 + M2*W2)}
*C3 II IO {M2*CGDON*W2}
.MODEL DMODN D (IS={IS} N={NN} EG={1*NZ*VT} XTI={NZ*0}) 
.ENDS

.SUBCKT MDSWP D S DG GND PARAMS: W = 100U L = 10U M = 1
*
.PARAM LE = {L - LDP}
*
S1 D S DG GND SWN
C1 D S {M*(CBDJ*CJP*LS*W + CBDS*CJSWP*(2*LS + W))} 
*D B
.MODEL SWN VSWITCH ( VON = {0.55} VOFF = {0.49} RON={1/(2*M*(W/LE)*(KPP/2)*5)} ROFF={1G} )
.ENDS

.SUBCKT MDSWN D S DG GND PARAMS: W = 100U L = 10U M = 1
*
.PARAM LE = {L - LDN}
*
S1 D S DG GND SWN
C1 D S {M*(CBDJ*CJN*LS*W + CBDS*CJSWN*(2*LS + W))} 
*D B
.MODEL SWN VSWITCH ( VON = {0.49} VOFF = {0.55} RON={1/(2*M*(W/LE)*(KPN/2)*5)} ROFF={1G} )
.ENDS

.SUBCKT MSWN D G S PARAMS: W = 100U L = 10U M = 1
*
.PARAM LE = {L - LDN}
*
C1 D S {M*(CBDJ*CJN*LS*W + CBDS*CJSWN*(2*LS + W))} 
*D B
C2 G S {M*2/3*COX*(W*LE) + CGSON*W}
C3 G D {CGDON*W}
S1 D S G S SWN
.MODEL SWN VSWITCH ( VON = {VTON+1} VOFF = {VTON} RON={1/(2*M*(W/L)*(KPN/2)*5)} ROFF={1G} )
.ENDS
*
* CONNECTIONS:   A
*                |    C
*                |    |
.SUBCKT D_Z18V   1    2
D1 1 2  DZ_18V
.ENDS 

.PARAM ISZ = 5p
.PARAM NZ = {0.3/(VT*LOG(1 + 5.0M/ISZ))}
.MODEL DZ_18V D( IS={ISZ} N={NZ} BV=18.0 IBV=5.0M EG={11.25*NZ*VT} XTI={NZ*3})

.SUBCKT RR1SFF S R R1 Q  Q_ VCC GND
+ PARAMS: VOUTH=5.0 VOUTL=0 RIN=1E12 DELAY=10N ROUT=10
.PARAM W1 = 100U 
.PARAM L1 = 10U 
.PARAM W2 = 100U 
.PARAM L2= 10U 
.PARAM W3 = 10U 
.PARAM L3 = 25U 
.PARAM W4 = 10U 
.PARAM L4= 100U 
*
XU1     Q GND S GND Q_ VCC GND   COMP2INPNORSD
+ PARAMS: ROUT={ROUT} DELAYLH={3N} DELAYHL={25N} VOUTH={VOUTH} VOUTL={VOUTL} 
+ VTHRES1={0.5*(VOUTH-VOUTL)} VTHRES2={VTOCN}
XU2     VCC R R1 GND Q_ GND Q VCC GND   COMP3INPNORSD
+ PARAMS: ROUT={ROUT} DELAYLH={3N} DELAYHL={3N} VOUTH={VOUTH} VOUTL={VOUTL} 
+ VTHRES1={VTOCP} VTHRES2={VTOCN} VTHRES3={0.49*(VOUTH-VOUTL)}
C1 S GND {0.67*COX*(W1*L1) + CGSON*W1}
C2 R VCC {0.67*COX*(W2*L2) + CGSOP*W2}
C3 R1 GND {0.67*COX*(W3*L3) + CGSON*W3}
C4 R1 VCC {0.67*COX*(W4*L4) + CGSOP*W4}
.ENDS

.SUBCKT COMP2INPNORSD IN1+ IN1- IN2+ IN2- OUT VCC GND
+ PARAMS: ROUT=0 DELAYLH=0 DELAYHL=0 VOUTH=0 VOUTL=0 VTHRES1=0 VTHRES2=0
*
.PARAM TDELLH = {IF ( (DELAYLH < 1E-9) , 1E-9, DELAYLH ) } 
.PARAM TDELHL = {IF ( (DELAYHL < 1E-9) , 1E-9, DELAYHL ) } 
.PARAM RO = {IF ( (TDEL > 1E-15) & (ROUT < 1), 1, ROUT ) } 
.PARAM TDEL = {(TDELLH+TDELHL)/2}
.PARAM COUT={TDEL/(0.693*(RO+1U))}
*.PARAM RDELLH = {TDELLH/(0.693*(COUT+1F))}
*.PARAM RDELHL = {TDELHL/(0.693*(COUT+1F))}
.PARAM VREF = {(15-VTOHP)}
.PARAM RDELLH = {TDELLH/(0.693*(COUT+1F))*VREF}
.PARAM RDELHL = {TDELHL/(0.693*(COUT+1F))*VREF}

EOUT OUT GND VALUE= { IF ( (V(IN1+,IN1-) > {VTHRES1}) | (V(IN2+,IN2-) > {VTHRES2}), 
*+ VOUTL + RDELLH*I(EOUT), VOUTH + RDELHL*I(EOUT) ) }
+ VOUTL + RDELLH*I(EOUT)*V(1,GND), VOUTH + RDELHL*I(EOUT)*V(1,GND) ) }
E1 1 GND VALUE= { IF ( (V(VCC,GND) > {VTOHP+0.01}), 1/(V(VCC,GND)-VTOHP), 100 ) }
COUT OUT GND {COUT}
.ENDS COMP2INPNORSD

.SUBCKT COMP3INPNORSD IN1+ IN1- IN2+ IN2- IN3+ IN3- OUT VCC GND
+ PARAMS: ROUT=0 DELAYLH=0 DELAYHL=0 VOUTH=0 VOUTL=0 VTHRES1=0 VHYST1=0 VTHRES2=0 VHYST2=0 VTHRES3=0 VHYST3=0  
*
.PARAM TDELLH = {IF ( (DELAYLH < 1E-9) , 1E-9, DELAYLH ) } 
.PARAM TDELHL = {IF ( (DELAYHL < 1E-9) , 1E-9, DELAYHL ) } 
.PARAM RO = {IF ( (TDEL > 1E-15) & (ROUT < 1), 1, ROUT ) } 
.PARAM TDEL = {(TDELLH+TDELHL)/2}
.PARAM COUT={TDEL/(0.693*(RO+1U))}
.PARAM VREFN = {(15-VTOHN)}
.PARAM VREFP = {(15-VTOHP)}
.PARAM VREF = {5*(15-VTOHP)}
*.PARAM RDELLH = {TDELLH/(0.693*(COUT+1F))*VREF}
*.PARAM RDELHL = {TDELHL/(0.693*(COUT+1F))*VREF}
.PARAM RDELLH = {TDELLH/(0.693*(COUT+1F))}
.PARAM RDELHL = {TDELHL/(0.693*(COUT+1F))}
*
EOUT OUT GND VALUE= { IF ( (V(IN1+,IN1-) > {VTHRES1}) | (V(IN2+,IN2-) > {VTHRES2}) | (V(IN3+,IN3-) > {VTHRES3}), 
+ VOUTL + RDELLH*I(EOUT), VOUTH + RDELHL*I(EOUT) ) }
*+ VOUTL + RDELLH*I(EOUT)*V(1,GND), VOUTH + RDELHL*I(EOUT)*V(1,GND) ) }
*E1 1 GND VALUE= { IF ( (V(VCC,GND) > {VTOHP+0.01}), 1/(5*(V(VCC,GND)-VTOHP)), 100 ) }
COUT OUT GND {COUT}
.ENDS COMP3INPNORSD

.PARAM LS = 1.0U
.PARAM VTOP_ = 0.31
.PARAM VTOP = 0.14
.PARAM VTON = 0.14
.PARAM VTOMP = 0.65
.PARAM VTOMN = 0.6
.PARAM VTOHP = 0.85
.PARAM VTOHN = 0.80
.PARAM LAMBDA = 2M
.PARAM GAMMA = 0.075
.PARAM KPN = 5.0E-05
.PARAM KPP = 2.0E-05
.PARAM LDN = 0.07U
.PARAM LDP = 0.07U
.PARAM RSW = 1810
.PARAM RSN = 1.41
.PARAM VBMUL = 1E6
.PARAM RPAR = 1T
.PARAM CBDJ = 1.0 
.PARAM CBDS = 1.0
.PARAM CGBF = 0.0

.PARAM CJN = {80U}
.PARAM CJP = {120U} 
.PARAM CJSWN = {0.5N}
.PARAM CJSWP = {1.0N}
.PARAM XJN = 0.6U
.PARAM CGSON = {0.6*XJN*COX} 
.PARAM CGDON = {CGSON}
.PARAM CGBON = {CGBF*CGDON}
.PARAM XJP = 0.6U
.PARAM CGSOP = {0.6*XJP*COX} 
.PARAM CGDOP = {CGSOP}
.PARAM CGBOP = {CGBF*CGDOP}
.PARAM EPSSIO2 = {3.9*8.854214871E-12}
.PARAM TOX = 400E-10
.PARAM COX = {EPSSIO2/TOX}
.PARAM VTOCP = {0.8}
.PARAM VTOCN = {0.75}
.PARAM CCG = 1.0
.PARAM KCG = 0.15
.PARAM CJNCG = {80U}
.PARAM CJPCG = {120U} 
.PARAM CJSWNCG = {0.5N}
.PARAM CJSWPCG = {1.0N}
.PARAM XJNCG = 0.6U
.PARAM CGSONCG = {0.6*XJNCG*COXCG} 
.PARAM CGDONCG = {CGSONCG}
.PARAM CGBONCG = {CGBF*CGDONCG}
.PARAM XJPCG = 0.6U
.PARAM CGSOPCG = {0.6*XJPCG*COXCG} 
.PARAM CGDOPCG = {CGSOPCG}
.PARAM CGBOPCG = {CGBF*CGDOPCG}
.PARAM TOXCG = 1000E-10
.PARAM COXCG = {EPSSIO2/TOXCG}
